US07485722B2
[3-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)-benzyl]-diethyl-amine
2-(3-Bromomethyl-phenyl)-5,5-dimethyl-[1,3,2]dioxaborinane (0.21 mmol, 60 mg) and diethyl-amine (1 mL, >10 equiv) were combined and left to stir at 70° C. for 4 hours. The reaction mixture was then diluted with ethyl acetate, concentrated in vacuo and dried on high vacuum for 1 hour. The residue was then dissolved in dichloromethane, washed with water, followed by brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give the final product as yellow oil (37.7 mg, 65%). 1H NMR (300 MHz, CDCl3): δ (ppm)=7.71 (m, 2H), 7.44 (m, 1H), 7.33 (m, 1H), 3.79 (s, 4H), 3.59 (s, 2H), 2.54 (q, 4H), 1.06 (t, 6H), 1.04 (s, 6H).

reactant | 2-(3-Bromomethyl-phenyl)-5,5-dimethyl-[1,3,2]dioxaborinane | 0.21 mmol, 60 mg | BrCC=1C=C(C=CC1)B1OCC(CO1)(C)C | C12H16BBrO2
reactant | diethyl-amine | 1 mL, >10 equiv | C(C)NCC | C4H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [3-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)-benzyl]-diethyl-amine | 37.7 mg, 65% | CC1(COB(OC1)C=1C=C(CN(CC)CC)C=CC1)C | C16H26BNO2
